US07741355B2
2-Isopropyl-5-methyl-cyclohexanecarboxylic acid (4-methoxy-2-nitrophenyl)-amide
4-Methoxy-2-nitroaniline (5 g, 0.018 mol) was dissolved in pyridine (50) and treated with menthoyl chloride (3.57 g, 0.018 mol). The reaction mixture was heated to 50° C. and stirred vigorously for 6 h. The reaction mixture was cooled to room temperature and poured into a mixture of CH2Cl2 (100 mL) and 1N HCl (100 mL)). The heterogeneous mixture was transferred to a separatory funnel where the aqueous phase was separated and re-extracted with CH2Cl2 (2×100 mL). The organic phases were combined and washed with 1N HCl (8×100 mL), H2O (1×100 mL), 1N NaOH (2×100 mL), brine (100 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (20 to 50% ethyl acetate/hexane for elution) provided the title compounds as colorless solid (4.9 g, 83%).

reactant | 4-Methoxy-2-nitroaniline | 0.018 mol, 5 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | menthoyl chloride | 0.018 mol, 3.57 g | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Isopropyl-5-methyl-cyclohexanecarboxylic acid (4-methoxy-2-nitrophenyl)-amide | 4.9 g, 83% | COC1=CC(=C(C=C1)NC(=O)C1C(CCC(C1)C)C(C)C)[N+](=O)[O-] | C18H26N2O4
